US07772256B2
6-(5-Methoxy-benzofuran-2-yl)-nicotinamide
5-methoxybenzofuran boronic acid (1.2 mmol), 6-bromonicotinamide (1.0 mmol), Pd(PPh3)2Cl2 (0.024 mmol) and NEt3 (317 μL) were mixed in EtOH (10 mL) in a 20 mL microwave vial. The mixture was stirred at 140° C. for 10 min in a microwave reactor. The mixture was filtered, the obtained precipitate was washed with water and EtOAc and dried under vacuum to afford the title compound (85 mg). 1H NMR δ ppm 9.14 (d, 1 H) 8.42 (dd, 1 H) 7.97-8.25 (m, 2 H) 7.63-7.80 (m, 2 H) 7.58 (d, 1 H) 7.22 (d, 1 H) 6.98 (dd, 1H) 3.81 (s, 3 H); MS m/z 269 (M+H).

reactant | 5-methoxybenzofuran boronic acid | 1.2 mmol | COC=1C=CC2=C(C=C(O2)B(O)O)C1 | C9H9BO4
reactant | 6-bromonicotinamide | 1.0 mmol | BrC1=NC=C(C(=O)N)C=C1 | C6H5BrN2O
reactant | NEt3 | 317 μL | CCN(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd(PPh3)2Cl2 | 0.024 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(5-Methoxy-benzofuran-2-yl)-nicotinamide | 85 mg | COC=1C=CC2=C(C=C(O2)C2=NC=C(C(=O)N)C=C2)C1 | C15H12N2O3
